US04341718
α-[(1-Methylethylamino)methyl]-β-Phenoxy-Benzeneethanol (Ia)
Borane-tetrahydrofuran complex (1 M solution in tetrahydrofuran, 20 ml.) was transferred by a syringe to a 100 ml. three-neck flask equipped with a reflux condenser, a nitrogen gas inlet and a rubber septum. The reaction flask was then chilled in a mixture of ice and table salt. α-Hydroxy-β-phenoxy-N-(1-methylethyl)benzenepropanamide (1.9 g.) suspended in tetrahydrofuran (25 ml.) was added slowly keeping the temperature at ca. 0°. The solution thus obtained was brought to reflux and maintained there for 2.5 hours. The reaction mixture was cooled to room temperature, dilute hydrochloric acid (6 N HCl 3 ml.) and water (5 ml.) was added carefully, and the mixture was heated under reflux for 20 minutes. It was then evaporated on a rotary evaporator under reduced pressure to give a solid residue. The residue was treated with water. The water insoluble material was separated by collecting on a filter and washed with water. The filtrate and washings were combined and made alkaline by addition of 50% aqueous sodium hydroxide solution, then extracted with chloroform 3 times. The combined extract was dried over magnesium sulfate, and evaporated under reduced pressure to give an oil which solidified on standing. The crude product was recrystallized from ether and petroleum ether, giving 1.0 g. of product, m.p. 95°-96°.

reactant | Borane tetrahydrofuran | 1 M, 20 ml | B.O1CCCC1
reactant | α-Hydroxy-β-phenoxy-N-(1-methylethyl)benzenepropanamide | 1.9 g | OC(C(=O)NC(C)C)C(C1=CC=CC=C1)OC1=CC=CC=C1 | C18H21NO3
reactant | hydrochloric acid | 6 N, 3 ml | Cl | ClH
reactant | water | 5 ml | O | H2O
solvent | table salt | [Na+].[Cl-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | α-[(1-Methylethylamino)methyl]-β-Phenoxy-Benzeneethanol | CC(C)NCC(C(C1=CC=CC=C1)OC1=CC=CC=C1)O | C18H23NO2
